US07015185B2
73.9 g (0.3 mol) of di-n-octylamine were initially introduced together with 31.8 g (0.3 mol) of sodium carbonate into 240 ml of absolute ethanol. At room temperature, 22.9 g (0.3 mol) of chloroacetonitrile were added and the mixture was stirred at reflux until starting material could no longer be detected by means of thin-layer chromatography (stationary phase: silica gel; mobile phase: methanol). The reaction mixture was filtered off and the filtrate was evaporated to dryness on a rotary evaporator. The residue was subjected to fractional distillation. At 145° C. and 0.04 mbar a fraction is obtained which is pure according to NMR spectroscopy. 58.4 g (0.21 mol) of di-n-octylaminoacetonitrile were isolated in the form of a clear liquid, corresponding to a yield of 69%.

reactant | di-n-octylamine | 0.3 mol, 73.9 g | C(CCCCCCC)NCCCCCCCC | C16H35N
reactant | sodium carbonate | 0.3 mol, 31.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 240 ml | C(C)O | C2H6O
reactant | chloroacetonitrile | 0.3 mol, 22.9 g | ClCC#N | C2H2ClN
solvent | methanol | CO | CH4O
product | di-n-octylaminoacetonitrile | 0.21 mol, 58.4 g, yield of 69% | C(CCCCCCC)N(CCCCCCCC)CC#N | C18H36N2
